2178-08-22 06:55:00 Physician Resident Progress Note
Chief Complaint:
   Sepsis
   24 Hour Events:
   Patient was afebrile overnight but he did have some rising SBPs to 160s
   and HR in 100s last night which was thought to have been possible early
   ETOH withdrawal so pt. was given 15mg valium administered for CIWA >10
   w/ good effect.
   He also got 10mg Lasix after  increased SOB and  WOB, crackles in
   lungs, he put 1 liter out and dyspnea improved and he advanced from 5 L
   NC to RA currently.
   Gram negative rods in blood identified as E. coli on collected [**Hospital1 **] records.   Antibiotics adjusted and now patient is only on
   Aztreonam, Pip-Tazo and Cipro discontinued.
 TRANSTHORACIC ECHO - At [**2178-8-21**] 11:00 AM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-21**] 02:00 AM
   Ciprofloxacin - [**2178-8-21**] 05:00 AM
   Aztreonam - [**2178-8-22**] 04:13 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-21**] 08:00 PM
   Furosemide (Lasix) - [**2178-8-21**] 10:10 PM
   Diazepam (Valium) - [**2178-8-22**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-22**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 90 (79 - 112) bpm
   BP: 123/65(85) {78/47(58) - 166/84(112)} mmHg
   RR: 35 (25 - 45) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 2 (1 - 10)mmHg
   Total In:
                                                                  2,524 mL
                                                                    169 mL
   PO:
   TF:
   IVF:
                                                                  2,494 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                    785 mL
   Urine:
                                                                  3,590 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,066 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///21/
   Physical Examination:
   General Appearance: Well nourished, No acute distress but rapid
   respirations noted
   HEENT :  PERRL, EOMI, Normocephalic, OP clear
   Lymphatic: Cervical WNL
   Cardiovascular: S1/S2 regular, no rubs,  prominent systolic murmur c/w
   AS, best heard at upper right sternal region
   Lungs :  bibasilar crackles noted, worse at left
   Abdominal: Soft, Non-tender, Bowel sounds present and normoactive
   Extremities: 1+ pedal pulses, no edema noted
   Skin:  Warm, no rashes, mild facial flushing
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Not
   assessed, Tone: Not assessed. CNs grossly in tact , no tremors
   Labs / Radiology
   165 K/uL
   11.0 g/dL
   140 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   25 mg/dL
   107 mEq/L
   138 mEq/L
   30.6 %
   10.3 K/uL
        [image002.jpg]
   [**8-21**]: Outside hospital reports ([**Hospital3 **]) blood culture with Gram
   Negative, E.Coli identified
   [**8-22**]: Cultures here at [**Hospital1 19**]
 pending blood and urine Cx
   [**8-21**]: TTE showing moderate to severe Aortic Stenosis, EF 45%
                             [**2178-8-21**]  01:16 AM
                             [**2178-8-21**]  03:29 AM
                             [**2178-8-21**]  09:19 PM
                             [**2178-8-22**]  05:04 AM
   WBC
   8.8
   9.6
   10.3
   Hct
   32.1
   29.6
   30.6
   Plt
   134
   145
   165
   Cr
   1.4
   1.2
   1.0
   TCO2
   17
   Glucose
   117
   165
   140
   Other labs: PT / PTT / INR:14.1/30.0/1.2, ALT / AST:146/105, Alk Phos /
   T Bili:86/1.9, Differential-Neuts:75.0 %, Band:13.0 %, Lymph:10.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   LDH:239 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan:
   Assesment: This is a 68 year-old male with a history of diabetes,
   hypertension, BPH who presents with E.Coli gram negative sepsis from a
   presumed urinary source.
   .
   Plan:
   # Sepsis - Patient  initially met SIRS criteria with hypotension,
   leukopenia, tachypnea.  Now ruled as sepsis with likely source being
   urinary vs. GI given positive urinalysis and recent instrumentation.
   E.coli identified.
   - Will continue  IV fluids to goal CVP 8-12
   - Transfuse for Hct > 30
   - If hypotension recurs IV fluid boluses and Levophed if needed to
   maintain MAP > 65 and UOP > 30cc/hr
   - Discontinued ciprofloxacin and Pip-tazo  and now on Aztreonam for
   gram negative coverage.
   - Follow-up blood, urine and  final sputum cultures
   - Trend WBC count  and monitor for fevers
   .
   # Anemia
Low reticulocyte count makes hemolysis less likely.  Elevated
   LDH, T. Bili, and thrombocytopenia may be secondary to sepsis.  MCV
   WNL.  Likely chronic picture given alcohol history and poor diet.
   -Will  transfuse for Hct < 27 or hemodynamic instability
   .
   # Thrombocytopenia, unclear etiology - Continue to monitor.  D/C
   heparin SC for now.
   -f/up final HIT PF4 Ab test  results
   .
   # Transaminitis - Likely secondary to sepsis, began evolving on [**8-20**]
   prior to transfer to MICU at OSH.
   - ALT>AST, but both trending downward now, will monitor. Total
   bilirubin remains elevated, will follow resolution.
   .
   # Acute renal failure, Cr today improved from
   - 2.0 at outside hospital to 1.4 and now 1.0 Cr
   - Continue bolus IV fluids PRN
   - Renally dose meds
   .# Shortness of  breath
 multifactorial, crackles on lung exam and CXR
   showing some fluid overload and history of severe AS and has probable
   etoh withdrawal also going on as well.
   -diurese gently today with CVP 14 range and MAP 60 + so as not to
   decrease pre-load too much given severe AS shown on TTE.  Will control
   RR with Valium PRN and CIWA scale for alcohol withdrawal monitoring  as
   well .
   # Aortic stenosis - Cautious with IV fluids, also caution with
   over-diuresis via Lasix
   .
   # DM-2
   - FS QID, RISS for now, holding Metformin in face of acute illness
   .
   # FEN:  Switch to regular PO diet for now.  Replete electrolytes PRN,
   hypokalemia corrected today, -check PM lytes
   .
   # Access: R subclavian, pivs
   .
   # PPx: Hep SC,
   .
   # Code:  Full
   .
   # Dispo:  ICU for now
   .
   # Comm:  with pt and pt's wife [**Name (NI) 653**]
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-20**] 11:55 PM
   20 Gauge - [**2178-8-20**] 11:57 PM
   Arterial Line - [**2178-8-21**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-22 10:29:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 M PMH AS, DM admitted with septic shock following trans-rectal
   prostate biopsy.  Blood and urine cultures with E. coli resistant to
   quinolones.  Antibiotics narrowed to aztreonam.  Now hemodynamically
   stable.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2178-8-21**] 11:00 AM
   -Hypertenison to SBP 160s, borderline tachycardia with agitation -
   concern for alcohol withdrawal; received 15 mg valium with good effect.
   -Received 10 mg IV lasix with 1 L diuresis for dyspnea, bibasilar
   crackles with improvement
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-21**] 02:00 AM
   Ciprofloxacin - [**2178-8-21**] 05:00 AM
   Aztreonam - [**2178-8-22**] 04:13 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-21**] 08:00 PM
   Furosemide (Lasix) - [**2178-8-21**] 10:10 PM
   Diazepam (Valium) - [**2178-8-22**] 04:30 AM
   Other medications:
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia, Hypertension
   Respiratory: Tachypnea, Hypoxemia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2178-8-22**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 96 (79 - 112) bpm
   BP: 155/77(106) {78/47(58) - 166/84(112)} mmHg
   RR: 32 (25 - 45) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 11 (1 - 11)mmHg
   Total In:
                                                                  2,524 mL
                                                                    342 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  2,494 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  1,035 mL
   Urine:
                                                                  3,590 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,066 mL
                                                                   -693 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 5 L NC
   SpO2: 92%
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   165 K/uL
   140 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   25 mg/dL
   107 mEq/L
   138 mEq/L
   30.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2178-8-21**]  01:16 AM
                             [**2178-8-21**]  03:29 AM
                             [**2178-8-21**]  09:19 PM
                             [**2178-8-22**]  05:04 AM
   WBC
   8.8
   9.6
   10.3
   Hct
   32.1
   29.6
   30.6
   Plt
   134
   145
   165
   Cr
   1.4
   1.2
   1.0
   TCO2
   17
   Glucose
   117
   165
   140
   Other labs: PT / PTT / INR:14.1/30.0/1.2, ALT / AST:146/105, Alk Phos /
   T Bili:86/1.9, Differential-Neuts:75.0 %, Band:13.0 %, Lymph:10.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   LDH:239 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: Echo - Mod to severe AS.  LVEF 45%.
   CXR - Small left pleural effusion. Retrocardiac opacity. Hilar
   fullness.  Mildly improved pulmonary edema.
   Microbiology: Urine culture - E. coli (OSH)
   Blood culture - E. coli (OSH)
   Urine culture - Pending
   Blood culture - Pending
   Assessment and Plan: 68 M moderate to severe AS, DM and heavy alcohol
   use who was admitted with septic shock secondary to E. coli after a
   trans-rectal prostate biopsy.  He now appears volume overloaded with
   pulmonary edema.  There may also be a component of alcohol withdrawal.
   1)       Sepsis
 Follow up culture data.  Continue aztreonam.
   2)      Volume overload
 Gentle diuresis given aortic stenosis.  Will
   try lasix drip given brisk response to bolus of 10 mg.
   3)      Hypoxemia
 Secondary to pulmonary edema and atelectasis.
   Diuresis as above.  OOB.  Wean O2 as tolerated.
   4)      Alcohol withdrawal
 Valium scale prn.  Discontinue standing
   valium.  Folate, thiamine.
   5)       Abnormal LFTs
 Likely secondary to sepsis.  Normalizing.
   6)       ARF
 Creatinine normalized.
   7)       Hypokalemia
 Replete.  Repeat electrolytes with diuresis.
   I was physically present with the ICU fellow for discussion of the
   patient on rounds and agree in full with the history, exam, ROS and
   plan.  I would add
   Patient is a 68 you male with history of AS and now admit with sepsis
   secondary to E. Coli.  He has now improved hemodynamic status but has
   persistent volume overload with impact upon oxygenation and pulmonary
   function with hypoxemia.
   Exam
   Patient altert and comfortable but with persistent tachypnea
   Lungs with moderate crackles but not with signficant distribution
   consistent with hydrostatic edema.
   Will
   -Continue EtOH W/D prophylaxis and Thiamine/Folte
   -Diuresis reasonable as patient with evidence of volume overload and
   now with hemodynamic stability.
   -Continue antibiotics.
   ICU Care
   Nutrition: Regular.
   Glycemic Control:  RISS
   Lines: Right subclavian, L arterial line
   Multi Lumen - [**2178-8-20**] 11:55 PM
   20 Gauge - [**2178-8-20**] 11:57 PM
   Arterial Line - [**2178-8-21**] 02:00 AM
   Prophylaxis:
   DVT: Boots.  HIT Ab pending so holding SC heparin for now.
   Stress ulcer: Pepcid
   VAP: N/A
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition : Discontinue arterial line.
   Total time spent: 45

2178-08-23 07:29:00 Physician Resident Progress Note
Chief Complaint: 68 M PMH AS, DM admitted with septic shock following
   trans-rectal prostate biopsy.
   24 Hour Events:
   Per OSH records, blood and urine cultures with E. coli resistant to
   quinolones, on Aztreonam. Currently afebrile, WBC WNL. Off all
   pressors,  Lasix gtt was continued overnight until this morning when
   CVP =7
   Pt c/o R-sided CP at 0400 that woke patient from sleep, [**5-23**] not
   radiating. Resolved spontaneously after 5 minutes. No associated SOB,
   nausea, vomiting.  EKG done, cardiac enzymes sent. Trop leak at 0.15,
   however no CK or CK-MB elevation.
   Arterial line was pulled yesterday.
 ARTERIAL LINE - STOP [**2178-8-22**] 05:36 PM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-21**] 02:00 AM
   Ciprofloxacin - [**2178-8-21**] 05:00 AM
   Aztreonam - [**2178-8-23**] 07:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-22**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 89 (79 - 99) bpm
   BP: 121/76(87) {114/70(80) - 137/79(94)} mmHg
   RR: 30 (24 - 49) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 7 (0 - 13)mmHg
   Total In:
                                                                    835 mL
                                                                    177 mL
   PO:
                                                                    390 mL
   TF:
   IVF:
                                                                    445 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,285 mL
                                                                    780 mL
   Urine:
                                                                  2,285 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen: Alert, NAD
   Heart: RRR 3/6 systolic cres/decres murmur radiating to carotids.
   Lungs: Bibasilar crackles
   Abd: soft, NDNT +Bs
   Ext: no edema
   Labs / Radiology
   154 K/uL
   10.6 g/dL
   111 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   20 mg/dL
   108 mEq/L
   139 mEq/L
   29.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-8-21**]  01:16 AM
                             [**2178-8-21**]  03:29 AM
                             [**2178-8-21**]  09:19 PM
                             [**2178-8-22**]  05:04 AM
                             [**2178-8-22**]  05:15 PM
                             [**2178-8-23**]  04:01 AM
   WBC
   8.8
   9.6
   10.3
   8.0
   Hct
   32.1
   29.6
   30.6
   29.8
   Plt
   134
   145
   165
   154
   Cr
   1.4
   1.2
   1.0
   0.8
   0.8
   TropT
   0.15
   TCO2
   17
   Glucose
   117
   165
   140
   142
   111
   Other labs: PT / PTT / INR:14.1/30.0/1.2, CK / CKMB /
   Troponin-T:20/3/0.15, ALT / AST:146/105, Alk Phos / T Bili:86/1.9,
   Differential-Neuts:75.0 %, Band:13.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:239 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assesment: This is a 68 year-old male with a history of diabetes,
   hypertension, AS who presents with E.Coli gram negative sepsis from a
   presumed urinary source.
   .
   Plan:
   # Sepsis - Patient  initially met SIRS criteria with hypotension,
   leukopenia, tachypnea.  Now ruled as sepsis with likely source being
   urinary vs. GI given positive urinalysis and recent instrumentation.
   E.coli resistant only to quinolones identified in [**4-17**] bottles at OSH.
   - Pt appears to be volume overloaded despite the low-normal CVP. Plan
   to diurese gently using SBP as guide (keep >110), goal for today = neg
   2 L over 24 hours.
   - Transfuse for Hct > 30
   - If hypotension recurs IV fluid boluses and Levophed if needed to
   maintain MAP > 65 and UOP > 30cc/hr
   - Discontinued ciprofloxacin and Pip-tazo  and now on Aztreonam (Day
   1=[**2178-8-21**]) for  gram negative coverage.
   - Follow-up blood, urine and  final sputum cultures
   - Trend WBC count  and monitor for fevers
   .
   # Anemia
Low reticulocyte count makes hemolysis less likely.  Elevated
   LDH, T. Bili, and thrombocytopenia may be secondary to sepsis.  MCV
   WNL.  Likely chronic picture given alcohol history and poor diet.
   -Will  transfuse for Hct < 27 or hemodynamic instability
   .
   # Thrombocytopenia, unclear etiology - Continue to monitor.  D/C
   heparin SC for now.
   -f/up final HIT PF4 Ab test  results
   .
   # Transaminitis - Likely secondary to sepsis/hypotension, began
   evolving on [**8-20**] prior to transfer to MICU at OSH.
   - ALT>AST, but both trending downward now, will monitor. Total
   bilirubin remains elevated, will follow resolution.
   .
   # Acute renal failure, Cr today improved from 2.0 at outside hospital
   to now 0.8
   -monitor Cr
   .# Shortness of  breath
 multifactorial, crackles on lung exam and CXR
   showing some fluid overload and history of severe AS and has probable
   etoh withdrawal also going on as well.
   -diurese gently today with SBP>110 so as not to decrease pre-load too
   much given severe AS shown on TTE.  Will control RR with Valium PRN and
   CIWA scale for alcohol withdrawal monitoring  as well .
   # Aortic stenosis - Cautious with IV fluids, also caution with
   over-diuresis via Lasix
   .
   # DM-2
   - FS QID, RISS for now, holding Metformin in face of acute illness
   .
   # FEN:  on Diabetic diet.  Replete electrolytes PRN, hypokalemia
   corrected today, -check PM lytes
   .
   # Access: Pull R subclavian today, pivs remains in place
   .
   # PPx: pneumoboots, pepcid
   .
   # Code:  Full
   .
   # Dispo:  ICU for now, due to concerns for tacypnea and lasix gtt
   .
   # Comm:  with pt and pt's wife [**Name (NI) 653**]
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-20**] 11:55 PM
   20 Gauge - [**2178-8-20**] 11:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-23 11:21:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 M PMH moderate to severe AS, DM, heavy EtOH use admitted with septic
   shock due to E. coli after a trans-rectal prostate biopsy.  His sepsis
   has now resolved and he has been mildly volume overloaded requiring
   diuresis.  He has also had some mild alcohol withdrawal.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2178-8-22**] 05:36 PM
 EKG - At [**2178-8-23**] 04:15 AM
   c/o R-sided CP in pt w/ mod AS, EF=45%, tachypnea
   -Diuresed with lasix drip; stopped this a.m. after CVP 7
   -Complained of right sided chest pain that woke him from sleep this
   a.m.; EKG unchanged; Tn 0.15 but CK negative
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-21**] 02:00 AM
   Ciprofloxacin - [**2178-8-21**] 05:00 AM
   Aztreonam - [**2178-8-23**] 07:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-22**] 09:00 PM
   Lansoprazole (Prevacid) - [**2178-8-23**] 08:00 AM
   Other medications:
   RISS
   Folate
   Thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2178-8-23**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 102 (79 - 104) bpm
   BP: 124/69(82) {114/69(80) - 137/79(94)} mmHg
   RR: 43 (24 - 49) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 13 (0 - 13)mmHg
   Total In:
                                                                    835 mL
                                                                    631 mL
   PO:
                                                                    390 mL
                                                                    420 mL
   TF:
   IVF:
                                                                    445 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  2,285 mL
                                                                  1,280 mL
   Urine:
                                                                  2,285 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2 L
   SpO2: 92%
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bibasilar crackles 1/3 up )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   154 K/uL
   111 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   20 mg/dL
   108 mEq/L
   139 mEq/L
   29.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-8-21**]  01:16 AM
                             [**2178-8-21**]  03:29 AM
                             [**2178-8-21**]  09:19 PM
                             [**2178-8-22**]  05:04 AM
                             [**2178-8-22**]  05:15 PM
                             [**2178-8-23**]  04:01 AM
   WBC
   8.8
   9.6
   10.3
   8.0
   Hct
   32.1
   29.6
   30.6
   29.8
   Plt
   134
   145
   165
   154
   Cr
   1.4
   1.2
   1.0
   0.8
   0.8
   TropT
   0.15
   TCO2
   17
   Glucose
   117
   165
   140
   142
   111
   Other labs: PT / PTT / INR:14.1/30.0/1.2, CK / CKMB /
   Troponin-T:20/3/0.15, ALT / AST:146/105, Alk Phos / T Bili:86/1.9,
   Differential-Neuts:75.0 %, Band:13.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:239 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR - Poor penetration.  Left lung field cutoff.  Improvement
   in bilateral upper lobe opacities.
   Microbiology: Blood (OSH) - E. coli
   Urine (OSH) - E. coli
   Blood - Negative
   Urine - Negative
   C. diff - Negative
   Assessment and Plan: 68 M PMH mod to severe AS, DM, heavy alcohol use
   who was admitted with septic shock with E. coli following transrectal
   biopsy.  His shock has resolved and he is now volume overloaded based
   on lung exam and CXR.
   1)       Sepsis
 Plan to complete 14 days of aztreonam (currently day
   #4).  Discontinue central line today.
   2)       Volume overload
 Continue diuresis today with goal negative
   -1L unless his blood pressure falls.
   3)       Hypoxemia / Tachypnea
 Likely related to pulmonary edema.
   Titrate oxygen.  I wonder about acidosis driving his tachypnea, so we
   will check an ABG.
   4)       Thrombocytopenia
 HIT antibody pending.  Counts have
   stabilized.
   5)       Transaminitis
 Resolving.
   6)       DM
 RISS.
   ICU Care
   Nutrition: Diabetic.
   Glycemic Control:  Regular insulin sliding scale
   Lines:  R subclavian.
   Multi Lumen - [**2178-8-20**] 11:55 PM
   20 Gauge - [**2178-8-20**] 11:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Lansoprazole
   VAP: N/A.
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition : Remain in ICU until tachypnea improved.
   Total time spent:

2178-08-24 12:49:00 Physician Attending Progress Note
Chief Complaint: Congestive Heart Failure; Sepsis
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2178-8-23**] 03:00 PM
   Overall, states to feel much improved.  Denies dyspnea.
   No further signs of EtOH withdrawal.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2178-8-24**] 05:59 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-23**] 10:44 PM
   Famotidine (Pepcid) - [**2178-8-24**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-24**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 95 (82 - 102) bpm
   BP: 112/68(79) {104/64(73) - 136/94(98)} mmHg
   RR: 25 (25 - 45) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 17 (14 - 17)mmHg
   Total In:
                                                                  1,712 mL
                                                                    656 mL
   PO:
                                                                  1,260 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    452 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  2,803 mL
   Urine:
                                                                  2,710 mL
                                                                  2,803 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                 -2,147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.50/36/57/25/4
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : , Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.6 g/dL
   187 K/uL
   137 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.4 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   32.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2178-8-21**]  01:16 AM
                             [**2178-8-21**]  03:29 AM
                             [**2178-8-21**]  09:19 PM
                             [**2178-8-22**]  05:04 AM
                             [**2178-8-22**]  05:15 PM
                             [**2178-8-23**]  04:01 AM
                             [**2178-8-23**]  12:56 PM
                             [**2178-8-23**]  08:01 PM
                             [**2178-8-24**]  05:11 AM
                             [**2178-8-24**]  06:48 AM
   WBC
   8.8
   9.6
   10.3
   8.0
   7.5
   Hct
   32.1
   29.6
   30.6
   29.8
   32.1
   Plt
   134
   145
   165
   154
   187
   Cr
   1.4
   1.2
   1.0
   0.8
   0.8
   0.9
   TropT
   0.15
   0.15
   TCO2
   17
   24
   29
   Glucose
   117
   165
   140
   142
   111
   137
   Other labs: PT / PTT / INR:14.1/30.0/1.2, CK / CKMB /
   Troponin-T:21/3/0.15, ALT / AST:146/105, Alk Phos / T Bili:86/1.9,
   Differential-Neuts:75.0 %, Band:13.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:239 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   68 yom resolving E. coli sepsis.
   RESPIRATORY DISTRESS -- predominatey attributable to pulmonary edema
   (volume resussitation in context of sepsis), underying valvular heart
   disease.  Improved radiographically and clnically.  Continue net
   diuresis.
   SEPSIS -- resolved.
   E. COLI BACTEREMIA -- currently on Aztreonam.  Consider switching
   agents to complete course.
   AORTIC STENOSIS -- likely contributed to pulmonary edema.  Resume usual
   medical regimen.
   FLUIDS -- desire net negative balance.  Monitor I/O.
   EtOH WITHDRAWAL --  no acute symtoms.  Monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-23**] 01:19 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 60 minutes

2178-08-24 13:12:00 Physician Resident Progress Note
Chief Complaint: 68 year old male with AS, DM admitted with septic
   shock (E.Coli) s/p trans rectal prostate biopsy.
   24 Hour Events:
   Pt. was on lasix drip o/n for diuresis, stopped at 1am.  Feels improved
   this morning.
 MULTI LUMEN - STOP [**2178-8-23**] 03:00 PM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2178-8-24**] 05:59 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-23**] 10:44 PM
   Famotidine (Pepcid) - [**2178-8-24**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-24**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 95 (82 - 102) bpm
   BP: 112/68(79) {104/64(73) - 136/94(98)} mmHg
   RR: 25 (25 - 45) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 17 (14 - 17)mmHg
   Total In:
                                                                  1,712 mL
                                                                    661 mL
   PO:
                                                                  1,260 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    452 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  2,803 mL
   Urine:
                                                                  2,710 mL
                                                                  2,803 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                 -2,142 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.50/36/57/25/4
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Diminished:
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   11.6 g/dL
   137 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.4 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   32.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2178-8-21**]  01:16 AM
                             [**2178-8-21**]  03:29 AM
                             [**2178-8-21**]  09:19 PM
                             [**2178-8-22**]  05:04 AM
                             [**2178-8-22**]  05:15 PM
                             [**2178-8-23**]  04:01 AM
                             [**2178-8-23**]  12:56 PM
                             [**2178-8-23**]  08:01 PM
                             [**2178-8-24**]  05:11 AM
                             [**2178-8-24**]  06:48 AM
   WBC
   8.8
   9.6
   10.3
   8.0
   7.5
   Hct
   32.1
   29.6
   30.6
   29.8
   32.1
   Plt
   134
   145
   165
   154
   187
   Cr
   1.4
   1.2
   1.0
   0.8
   0.8
   0.9
   TropT
   0.15
   0.15
   TCO2
   17
   24
   29
   Glucose
   117
   165
   140
   142
   111
   137
   Other labs: PT / PTT / INR:14.1/30.0/1.2, CK / CKMB /
   Troponin-T:21/3/0.15, ALT / AST:146/105, Alk Phos / T Bili:86/1.9,
   Differential-Neuts:75.0 %, Band:13.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:239 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assesment: This is a 68 year-old male with a history of diabetes,
   hypertension, AS who presents with E.Coli gram negative sepsis from a
   presumed urinary source which is now resolving.  He also has hypoxia
   likely secondary to volume overload.
   Plan:
   # Sepsis - Patient  initially met SIRS criteria with hypotension,
   leukopenia, tachypnea.  Now ruled as sepsis with likely source being
   urinary vs. GI given positive urinalysis and recent instrumentation.
   E.coli resistant only to quinolones identified in [**4-17**] bottles at OSH.
   Now patient afebrile, no leukocytosis, no hypotension.
   - Discontinued ciprofloxacin and Pip-tazo  and now on Aztreonam (Day
   1=[**2178-8-21**], total course 14 days) for  gram negative coverage.
   - If hypotension recurs IV fluid boluses and Levophed if needed to
   maintain MAP > 65 and UOP > 30cc/hr
   - Follow-up blood, urine and  final sputum cultures
   - Follow up cath-tip culture
   - Trend WBC count  and monitor for fevers
   # Shortness of  breath
 multifactorial, crackles on lung exam and CXR
   showing fluid overload and history of severe AS.  It is also possible
   that the patient was withdrawing from EtoH.  Tachypnea has now resolved
   and the patient is stable on 2L NC
   - Although patient is -5.7L in his stay here, he was likely given fluid
   resuscitation at OSH and so his true fluid status is unknown.  On exam
   and on CXR he appears volume overloaded.  Had good diuresis last
   night.  Plan to diurese with IV lasix, but gently due to his AS (don't
   want to decrease pre-load too much). Using SBP as guide (keep >110),
   goal for today = neg 1 L over next 24 hours.
   - Will control RR with Valium PRN and CIWA scale for alcohol withdrawal
   monitoring  as well, though the patient has not been requiring this.
   # Anemia
 Now resolving.  Unlikely hemolytic given retic count
   (elevated LDH, T. Bili, and thrombocytopenia was most likely secondary
   to sepsis).  Anemia is likely chronic given alcohol history and poor
   diet.
   -Will  transfuse for Hct < 27 or hemodynamic instability
   # Thrombocytopenia, unclear etiology,probably sepsis, now resolving.
   There was concern for HIT so we D/C'd heparin SC for now.
   -f/up final HIT PF4 Ab test  results
   # Transaminitis - Likely secondary to sepsis/hypotension, began
   evolving on [**8-20**] prior to transfer to MICU at OSH.
   - ALT>AST, but both trending downward now, will monitor. Total
   bilirubin remains elevated, will follow resolution.
   .
   # Acute renal failure, Cr today improved from 2.0 at outside hospital
   to now 0.9, good UOP.
   -monitor Cr
   -strict I/O
   # Aortic stenosis - Cautious with IV fluids, also caution with
   over-diuresis via Lasix
   # DM-2
   - FS QID, RISS for now, holding Metformin in face of acute illness
   .
   # FEN:  on Diabetic diet.  Replete electrolytes PRN,
   -check PM lytes given diuresis
   # Access: R subclavian pulled on Saturday, 2 pivs remains in place
   # PPx: pneumoboots, pepcid
   .
   # Code:  Full
   .
   # Dispo:  To floor is patient remains stable
   .
   # Comm:  with pt and pt's wife [**Name (NI) 653**]
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-23**] 01:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: